US04098889
Preparation of 2-(2-(1-Piperidinyl)ethylthio)-N,N'-p-phenylenebismethanesulfonamide Hydrochloride
To a solution containing 8.9 g (0.030 mole) of 2-mercapto-N,N'-p-phenylenebismethanesulfonamide dissolved in 500 ml of ethanol at 60° C was added 4.7 g (0.032 mole) of 2-(1-piperidinyl)ethyl chloride with stirring. The reaction flask was then removed from the heat, and the mixture was allowed to cool to room temperature. At the end of a period of 15 hours the precipitated white solid product (8.9 g) was collected on a filter and dried. Recrystallization from a mixture of nitromethane and dimethylformamide gave the title compound as white crystals, m.p. 218°-218.5° C dec.

reactant | 2-mercapto-N,N'-p-phenylenebismethanesulfonamide | 0.030 mole, 8.9 g | SC1=C(C=CC(=C1)NS(=O)(=O)C)NS(=O)(=O)C | C8H12N2O4S3
reactant | 2-(1-piperidinyl)ethyl chloride | 0.032 mole, 4.7 g | N1(CCCCC1)CCCl | C7H14ClN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(2-(1-Piperidinyl)ethylthio)-N,N'-p-phenylenebismethanesulfonamide Hydrochloride | Cl.N1(CCCCC1)CCSC1=C(C=CC(=C1)NS(=O)(=O)C)NS(=O)(=O)C | InChI=1S/C15H25N3O4S3.ClH/c1-24(19,20)16-13-6-7-14(17-25(2,21)22)15(12-13)23-11-10-18-8-4-3-5-9-18;/h6-7,12,16-17H,3-5,8-11H2,1-2H3;1H
